US08487108B2
To a solution of (S)-tert-butyl 4-((R)-2-(allyloxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate (700 mg, 2.06 mmol, 1 eq) in anhydrous CH2Cl2 was added Grubbs catalyst 2nd generation ((1,3-Bis-(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(phenylmethylene)(tricyclohexylphosphine)ruthenium) (173 mg, 0.21 mol, 0.1 eq). The resulting mixture was stirred and heated to reflux for 4 h. The solvent was removed under reduced pressure to afford the crude product. It was purified by column chromatography on silica gel (PE:EA=100:1) to give (S)-tert-butyl 2,2-dimethyl-4-(((R,Z)-2,3,4,7-tetrahydrooxepin-3-yl)methyl)oxazolidine-3-carboxylate (563 mg, 88%).

reactant | (S)-tert-butyl 4-((R)-2-(allyloxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate | 2.06 mmol, 700 mg, 1 eq | C(C=C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CC=C | C19H33NO4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Grubbs catalyst 2nd generation | 0.21 mol, 173 mg, 0.1 eq | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | (S)-tert-butyl 2,2-dimethyl-4-(((R,Z)-2,3,4,7-tetrahydrooxepin-3-yl)methyl)oxazolidine-3-carboxylate | 563 mg, 88% | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1COC\C=C/C1)C | C17H29NO4
